US04454134
A mixture of 3.0 g (0.017 m) of 1-(2-carbamoyl-1-methylethylthio)acetaldoxime, 200 ml. of dry acetone, 3.0 g. (0.053 m) of methyl isocyanate, and two drops of triethylamine was allowed to stand at room temperature, with occasional shaking, for two days. The acetone and excess methyl isocyanate was removed from the product under reduced pressure. The white solid residue was recrystallized from isopropanol and dried at room temperature to give 3.0 g (75% yield) of 1-(2-carbamoyl-1-methylethylthio)acetaldehyde O-(methylcarbamoyl)oxime; melting point=119-121. The nmr spectra confirmed the structure.

reactant | 1-(2-carbamoyl-1-methylethylthio)acetaldoxime | 3.0 g | C(N)(=O)CC(SC(C)=NO)C | C6H12N2O2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
catalyst | triethylamine | two drops | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2-carbamoyl-1-methylethylthio)acetaldehyde O-(methylcarbamoyl)oxime | 3.0 g, 75% yield | CNC(=O)ON=C(C)SC(CC(N)=O)C | C8H15N3O3S
